US06376539B1
cis-8-Oxabicyclo[4.3.0]non-3-en-9-one
Cis-Cyclohexene-1,2-dicarboxylic anhydride (30.4 g, 200 mmol) in methanol (9 ml, 220 mmol) is heated at the boil for 1 h. Excess solyent is then evaporated. 33.2 g (180 mmol) of the resulting monomethyl ester are, at 0° C. and under argon, dissolved in 200 ml of dry dichloromethane and admixed dropwise with oxalyl chloride (32 g, 252 mmol). After the evolution of gas has ceased, stirring at room temperature is continued for 3 h. The solyent is then removed under reduced pressure and the residue is dissolved in 75 ml of THF. This solution is then added dropwise to a solution, kept at −40° C. and under argon, of sodium borohydride (13.6 g, 360 mmol) in 750 ml of absolute ethanol. After the evolution of gas has ceased, stirring at −40° C. is continued for 2 h, and the mixture is acidified to pH 2 using 4 N sulphuric acid and concentrated. The residue is admixed with 400 ml of water and extracted with MTBE. The ether phases are dried over magnesium sulphate, filtered and concentrated. The residue is then taken up in 200 ml of toluene, admixed with 10-camphorsulphonic acid (100 mg, 0.43 mmol) and heated in a water separator until TLC shows complete conversion. The solyent is then evaporated and the residue is distilled under reduced pressure (b.p.: 70° C./0.01 Torr).

reactant | methanol | 220 mmol, 9 ml | CO | CH4O
reactant | oxalyl chloride | 252 mmol, 32 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium borohydride | 360 mmol, 13.6 g | [BH4-].[Na+]
reactant | sulphuric acid | 4 N | S(O)(O)(=O)=O | H2O4S
reactant | 10-camphorsulphonic acid | 0.43 mmol, 100 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | cis-8-Oxabicyclo[4.3.0]non-3-en-9-one | [C@@H]12CC=CC[C@H]2COC1=O | C8H10O2
